US08071588B2
A mixture of N-[(3-bromo-4-fluorophenyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}propanediamide (0.9429 g, 1.638 mmol), (3-formylphenyl)boronic acid (0.300 g, 2.0 mmol), tetrakis (triphenylphosphine) palladium (0) (0.092 g, 0.08 mmol), sodium carbonate (0.530 g, 5.0 mmol), in 1,4-dioxane (12 mL) and water (4 mL) was microwaved for 30 min at 140° C.; however, the reaction failed and appeared to be incomplete by color. The mixture was again microwaved at 150° C. for about two min. The LC-MS showed that the reaction was complete. The reaction mixture was diluted with water, extracted with EtOAc twice. The organic extracts were filtered through a glass-fibre filter and washed with saturated NaCl, then dried over Na2SO4. The organic layer was evaporated to dryness and taken up in a small amount of DCM, introduced onto a Chromatotron Plate (silica gel −2,000μ) and eluted with DCM-MeOH (2-7%). The product fractions were dried to give N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-[(6-fluoro-3′-formyl-3-biphenylyl)methyl]propanediamide (650 mg, 62.7%) as a glassy solid. LC-MS m/z 601.4 (M+H)+, 0.83 min (ret time).

reactant | N-[(3-bromo-4-fluorophenyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}propanediamide | 1.638 mmol, 0.9429 g | BrC=1C=C(C=CC1F)CNC(CC(=O)NCC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2)=O | C26H32BrFN6O3
reactant | (3-formylphenyl)boronic acid | 2.0 mmol, 0.300 g | C(=O)C=1C=C(C=CC1)B(O)O | C7H7BO3
reactant | sodium carbonate | 5.0 mmol, 0.530 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,4-dioxane | 12 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
catalyst | tetrakis (triphenylphosphine) palladium (0) | 0.08 mmol, 0.092 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | water | 4 mL | O | H2O
product | N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-[(6-fluoro-3′-formyl-3-biphenylyl)methyl]propanediamide | 650 mg, 62.7% | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(CC(=O)NCC=2C=C(C(=CC2)F)C2=CC(=CC=C2)C=O)=O)CC | C33H37FN6O4
